US04945100
2-(2,4-dichlorophenyl)-2-allyloxybutan-1-ol
8.68 g (38 mmoles) of 2-(2,4-dichlorophenyl)-1,2-epoxybutane of 95% purity are added dropwise at 7°-8° C. to a solution of 5.67 g (40 mmoles) of boron trifluoride-etherate in 23.2 g (400 mmoles) of allyl alcohol. The mixture is kept at 20° C. overnight in a water bath, and the solution is extracted with chloroform and water. Drying the organic phase with Na2SO4 and removing the solvent on a rotary evaporator gives 11.3 g of crude product, which is purified by column chromatography (silica gel; mobile phase: 4 parts of petroleum ether/1 part of ethyl acetate). The yield of pure product is 5.28 g (50.5% of theory) of a colourless oil. Refractive index n50D =1.5291. 60 MHz-1H-NMR(DCCl3): δ=7.1-7.6 ppm (m, 3H, aromatic); 5.0-6.5 ppm (m, 3H; olefinic): 3.8-4.4 ppm (m, 4H; 2× OCH2) 1.5-2.5 ppm (m; 3H CH2CH3, OH); 0.67 ppm (t, 3H, CH2CH3).

reactant | 2-(2,4-dichlorophenyl)-1,2-epoxybutane | 38 mmoles, 8.68 g | ClC1=C(C=CC(=C1)Cl)C1(CO1)CC | C10H10Cl2O
reactant | boron trifluoride-etherate | 40 mmoles, 5.67 g | B(F)(F)F.CCOCC
reactant | allyl alcohol | 400 mmoles, 23.2 g | C(C=C)O | C3H6O
product | 2-(2,4-dichlorophenyl)-2-allyloxybutan-1-ol | 11.3 g | ClC1=C(C=CC(=C1)Cl)C(CO)(CC)OCC=C | C13H16Cl2O2
